Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
unknown / Penicillins
 
Attending: ___.
 
Chief Complaint:
"I don't know, I don't remember."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
History was noted from Dr. ___ consult note from  
___, and subsequent psychiatry CL notes in OMR, confirmed 
with patient and updated as relevant:
. 
Briefly, Ms. ___ is a ___ yo homeless female c no known 
PPH/PMH who recently traveled to ___ from ___ via bus a few 
days ago for unclear reasons ('to have fun') who was BIBA after 
reportedly exhibiting erratic behavior and spitting on other 
patrons at ___ now presenting with possible perceptual 
disturbances, paranoid ideation and making homicidal statements
towards EMS and ___ staff.  
. 
Patient revealed that she had recently taken a Greyhound bus 
from ___, ___ to ___ in order to visit her foster family 
in ___.  She states that she has been planning this visit 
for some time and that she hopes to be adopted, smiling broadly 
at the thought.  Since arriving in ___ she has been staying 
at the ___ which she had looked up prior to 
beginning her trip.  Asked how she was faring in the shelter she 
stated she's been fine as she's capable of taking care of 
herself- she's spent "a lot of time" in shelters, but will not 
elaborate.  Her parents died "of disease" when she was very 
young, but she does have an older brother, ___, age ___ 
or ___ who lives in ___, ___.  They have not spoken in some 
time, but patient has given her treatment team permission to 
contact both her brother and ___ family.  She does not, 
unfortunately, have their numbers.  She becomes visibly
uncomfortable when talking about her parents and thanks us when 
we change the topic of conversation.  
. 
She states that she has been in many psychiatric hospitals 
before beginning when she was a teenager but she doesn't recall 
why.  She again smiles broadly on mention of her first 
hospitalization and then states that she likes Deaconess 4 
because "it's really nice".  Despite her history of 
hospitalizations she denies psychiatric diagnoses or medication 
trials; she adds that the Haldol she has received this hospital 
stay has been making her
dizzy and agrees to take Risperidone.  She cannot recall the 
events that led to her presentation to the ___ (spitting on 
customers at ___) but presently denies SI/HI/AVH.  At this 
point, the patient politely asks "Are we done now?" inching 
forward in her seat.  She declined to sign in voluntarily 
requesting discharge to shelter so that she could find a job in 
___.  She then thanked these interviewers for their time and 
calmly left the room.
. 
Of note, in the emergency department ___, she was unable to form 
coherent sentences, making homicidal statements, and swearing 
profusely. She stated to one RN, "you are getting stabbed." As a 
result of her aggressive behavior not amenable to verbal 
redirection, she required mechanical and chemical restraints
lorazepam 2mg IM and haloperidol 5mg IM).  Following this event 
she did comply with Haldol 5 mg PO BID although she only 
intermittently accepted vitals and blood draws.  She maintained 
both safety and behavioral control for the remainder of her stay 
in the ___ and on the medical floor while awaiting her bed on 
psychiatry.  She was, however, noted often to be paranoid and 
guarded.
. 
Psychiatric ROS:
Depression - denies symptoms including anhedonia, hopelessness, 
guilt, fatigue, difficulty concentrating, changes in appetite; 
she occasionally has difficulty falling asleep. 
Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile).  
Mania- denies symptoms including elevated mood or irritability, 
marked increases in goal-directed behavior, racing thoughts, a 
decreased need for sleep, or social/economic indiscretion 
Anxiety - denies symptoms including panic attacks or 
agoraphobia.

ROS: All systems reviewed and were negative.
 
Past Medical History:
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Diagnoses: denied
Hospitalizations: "Many" per patient, beginning in her ___
years
Current treaters and treatment: denied
Medication and ECT trials: denied
Self-injury: denied
Harm to others: denied but was verbally threatening towards
others and reportedly spit on fellow patrons at ___
Access to weapons: denied
.   
Past medical history: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
Diagnoses: denied
PCP: denied
___ including vitamins, herbs, supplements, OTC: denied
Allergies: NKDA
 
Social History:
Substance use history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Alcohol: denied
Recreational: denied; but later stated, 'I suppose I did smoke a
line of cocaine a long time ago.'
Tobacco: "a long time ago"

Forensic history: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
Arrests: denied
Convictions and jail terms: denied
Current status (pending charges, probation, parole): denied

Personal and Social History: ___
Family History:
Family psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Denied any history of psychiatric illness or suicide

 
Physical Exam:
VS: T: 98.0 PO; BP 127 / 79; HR 116; RR 16; SpO2 96%
 
Declined both physical and neurocognitive exam

Mental Status:
Appearance: No apparent distress, appears stated age, adequately
groomed, wearing a hospital ___: Calm, cooperative, pleasant, inappropriately prolonged
eye contact, no psychomotor agitation or retardation although
patient does ambulate with short shuffling steps and decreased
arm swing
Mood and Affect: "I'm good" / euthymic, constricted, at times 
and
incongruently smiles broadly
Thought Process: Largely linear with some LOA, answers most
questions concretely with little elaboration
Thought Content: denies SI/HI/AH/VH, some paranoia 
Judgment and Insight: poor/poor

Discharge Examination: 
VS: T 97.7 PO; BP 125 / 80; HR 112; RR 16; SpO2 99% 

Appearance/Behavior- Young female who appears her stated age, 
sparse facial hair, adequately groomed; calm, cooperative, 
pleasant but oddly related with inappropriately prolonged eye 
contact
Speech- Fluent ___, normal volume, decreased rate and 
prosody
Mood/Affect- "I'm good" / Euthymic, congruent, blunted range
Thought Process- Linear, no apparent LOA
Thought Content- Denies SI/HI/AVH
Insight/Judgment- Poor/Poor

 
Pertinent Results:
___ 04:59PM   GLUCOSE-97 UREA N-16 CREAT-0.8 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-26 ANION GAP-17
___ 04:59PM   ALT(SGPT)-20 AST(SGOT)-17 ALK PHOS-67 TOT 
BILI-0.4
___ 04:59PM   CALCIUM-10.1 PHOSPHATE-4.1 MAGNESIUM-2.2 
CHOLEST-234*
___ 04:59PM   VIT B12-319 FOLATE-14
___ 04:59PM   %HbA1c-5.1 eAG-100
___ 04:59PM   TRIGLYCER-100 HDL CHOL-78 CHOL/HDL-3.0 
LDL(CALC)-136*
___ 04:59PM   TSH-0.86
___ 04:59PM   WBC-9.5 RBC-4.72 HGB-14.9 HCT-45.3* MCV-96 
MCH-31.6 MCHC-32.9 RDW-11.7 RDWSD-41.4
___ 04:59PM   NEUTS-72.1* ___ MONOS-6.8 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-6.87* AbsLymp-1.92 AbsMono-0.65 
AbsEos-0.03* AbsBaso-0.03
___ 04:59PM   PLT COUNT-292
 
Brief Hospital Course:
#. Legal/Safety:  Patient was admitted on a ___ and 
refused to sign a CV. Of note, she maintained excellent 
behavioral control during her admission and did not require 
physical or chemical restraints. She consistently denied 
suicidal ideation, thoughts of self harm or thoughts of harming 
others throughout her hospitalization and was able to care for 
self with good po intake; she attended to ADL's appropriately. 
Given this, I did not feel she met criteria to file a 7&8b 
following the expiration of her ___ and thus she was 

#. Psychosis:  Despite patient's initial paranoia and 
disorganized behavior she complied with her medical care and 
interacted appropriately with her treatment team, staff and 
peers..  She initially required physical and chemical restraints 
in the ___ for aggression and hostile behavior but improved once 
transferred to the medical floor (boarding awaiting psychiatric 
bed) on a regimen of Haldol 5 mg PO BID.  She claimed that 
Haldol made her dizzy so on admission to the inpatient 
psychiatric unit was transitioned to risperidone 2 mg PO BID 
titrated to 3 mg PO BID.  She tolerated  this medication without 
side effects with apparent improvement in terms of the 
disorganization and paranoia described prior to her transfer.  
She shared that she had boarded a bus from ___ to ___ in 
order to visit her foster family but such persons could not be 
reached for collateral; she shared that she often traveled, 
staying in shelters, and had experienced multiple psychiatric 
hospitalizations over the last ___ years- she would not, 
however, provide their indication or a historical psychiatric 
diagnosis.  Given her rapid improvement and negative toxicology 
on admission the suspicion for primary psychotic disorder 
remains high on the differential.  This is supported, too, but 
the presumed chronicity of her disease given her seemingly 
chaotic socioeconomic situation (numerous psychiatric 
hospitalizations, homelessness, lack of identifiable social 
supports, inability to maintain employment).  She was discharged 
on the medication above and encouraged to follow up with local 
providers. 

#. Tobacco Use:  Patient was provided nicotine patches and gum.  
Despite cessation counseling the patient expressed a desire to 
quit smoking.  She declined nicotine patches on discharge.

#. Hyperlipidemia: 
Noted on lipid panel: total chol 234, HDL 78, LDL 136, trig 100. 
 Given patient's young age and risks/benefits of statin 
recommend attempts at lifestyle modification (diet/exercise) 
prior to initiation of medication.  All other routine labs 
including BMP/LFTs/CBC/TSH/RPR/A1c wnl.
  
#. Social Work/Dispo:
Initiated application for ___ services.  Appointments for 
primary and psychiatric follow-up made at ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Wear one patch Daily Disp #*14 Patch 
Refills:*0 
2.  RisperiDONE 3 mg PO BID 
RX *risperidone 3 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder 

 
Discharge Condition:
VS: T 97.7 PO; BP 125 / 80; HR 112; RR 16; SpO2 99% 

Appearance/Behavior- Young female who appears her stated age, 
sparse facial hair, adequately groomed; calm, cooperative, 
pleasant but oddly related with inappropriately prolonged eye 
contact
Speech- Fluent ___, normal volume, decreased rate and 
prosody
Mood/Affect- 'I'm good' / Euthymic, congruent, blunted range
Thought Process- Linear, no apparent LOA
Thought Content- Denies SI/HI/___
Insight/Judgment- Poor/Poor

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___